US08071597B2
Intermediate 79: N-{3-[(3,5-dimethoxyphenyl)amino]quinoxalin-2-yl}-4-[(4-methylpiperazin-1-yl)carbonyl]benzenesulfonamide (Formula I)
4-[({3-[(3,5-dimethoxyphenyl)amino]quinoxalin-2-yl}amino)sulfonyl]benzoic acid (162 mg; 0.34 mmol; 1 eq.), EDC-HCl (71.10 mg; 0.37 mmol; 1.10 eq.) and HOBT (50.11 mg; 0.37 mmol; 1.10 eq.) were taken up in DCM (6 ml) then DIEA (84.89 μl; 0.51 mmol; 1.50 eq.) and 1-methylpiperazine (37.52 μl; 0.34 mmol; 1 eq.) were added. The mixture was stirred at rt for 5 h. The solution was washed successively with a saturated solution of NaHCO3, NH4Cl and NaCl. The organic phase was dried over MgSO4 and concentrated to near dryness to afford 171 mg (90%) of the title compound as a yellow powder. 1H NMR (DMSO-d6) δ 10.06 (br s, 1H), 8.80 (s, 1H), 8.13 (d, J=8.3 Hz, 2H), 7.47 (d, J=8.3 Hz, 2H), 7.44-7.41 (m, 1H), 7.39-7.34 (m, 1H), 7.31 (br d, 2H), 7.21-7.14 (m, 2H), 6.15 (t, J=2.3 Hz, 1H), 3.76 (s, 6H), 3.65-3.35 (m, 4H), 3.10-2.85 (m, 4H), 2.63 (s, 3H). HPLC (max plot) 97.1%; Rt 3.55 min. LC/MS: (ES+): 563.4, (ES−): 561.2.

reactant | 4-[({3-[(3,5-dimethoxyphenyl)amino]quinoxalin-2-yl}amino)sulfonyl]benzoic acid | 0.34 mmol, 162 mg, 1 eq. | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C23H20N4O6S
reactant | EDC-HCl | 0.37 mmol, 71.10 mg, 1.10 eq. | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.37 mmol, 50.11 mg, 1.10 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.51 mmol, 84.89 μl, 1.50 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methylpiperazine | 0.34 mmol, 37.52 μl, 1 eq. | CN1CCNCC1 | C5H12N2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | N-{3-[(3,5-dimethoxyphenyl)amino]quinoxalin-2-yl}-4-[(4-methylpiperazin-1-yl)carbonyl]benzenesulfonamide | 171 mg, 90% | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C28H30N6O5S
